US09193693B2
A solution of 2-bromopyridine (1.0 g, 6.33 mmol, 1.00 equiv), t-butyl piperazine-1-carboxylate (2.35 g, 12.62 mmol, 2.00 equiv), BINAP (196 mg, 0.63 mmol, 0.10 equiv), Pd2(dba)3 (290 mg, 0.32 mmol, 0.05 equiv), and NaOt-Bu (1.89 g, 18.90 mmol, 3.00 equiv) in toluene (20 mL) was placed in a 100-mL round bottom flask under an inert atmosphere and stirred overnight at 100° C. in an oil bath. The resulting mixture was concentrated under vacuum. Purification by silica gel column (ethyl acetate/petroleum ether (1:40)) yielded 1.4 g (84%) of t-butyl 4-(pyridin-2-yl)piperazine-1-carboxylate as a yellow solid.

reactant | 2-bromopyridine | 6.33 mmol, 1.0 g, 1.00 equiv | BrC1=NC=CC=C1 | C5H4BrN
reactant | t-butyl piperazine-1-carboxylate | 12.62 mmol, 2.35 g, 2.00 equiv | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | BINAP | 0.63 mmol, 196 mg, 0.10 equiv | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOt-Bu | 18.90 mmol, 1.89 g, 3.00 equiv | CC(C)(C)[O-].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.32 mmol, 290 mg, 0.05 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | t-butyl 4-(pyridin-2-yl)piperazine-1-carboxylate | 1.4 g, 84% | N1=C(C=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H21N3O2
